US05795887
2-(3-Amino-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide hydrobromide
A solution of 1.00 g of 2-[3-(N-benzyloxycarbonyl-amino)-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (1.690 mmol), prepared as in Intermediate 30, in 6 mL glacial acetic acid was saturated with hydrogen bromide gas and stirred at ambient temperature for 16 hrs. The reaction mixture was evaporated in vacuo to a residue and triturated with diethyl ether. The resulting slurry was filtered, washed with diethyl ether, and dried under high vacuum to provide 1.062 g of the title compound as a dihydrobromide salt. 1H NMR (300 MHz, CD3 OD) -- =9.06 (m, 2H), 8.85 (m, 1H), 8.21 (dd, 1H, J=5.8, 8.1), 7.84 (m, 1H), 7.61 (d, 1H, J=8.3), 7.50 (m, 2H), 7.27 (m, 2H), 7.10 (d, 2H, J=8.8), 5.25 (s, 1H), 4.52 (d, 1H, J=16.7), 4.31 (d, 1H, J=16.7), 3.88 (s, 3H), 1.07 (m, 6H); MS (ESI): [M+H]+ =458.

reactant | 2-[3-(N-benzyloxycarbonyl-amino)-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.690 mmol, 1.00 g | C(C1=CC=CC=C1)OC(=O)NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2 | C34H33N5O5
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Amino-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide hydrobromide | 1.062 g | Br.NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2 | InChI=1S/C26H27N5O3.BrH/c1-17(2)31(19-10-12-20(34-3)13-11-19)23(32)16-30-22-9-5-4-8-21(22)24(29-25(27)26(30)33)18-7-6-14-28-15-18;/h4-15,17,25H,16,27H2,1-3H3;1H
